US07091199B1
Preparation of (2,6-difluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine (Scheme I, Compound 1)
The title compound is prepared from 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole, potassium carbonate, 2,6-difluorobenzylamine and acetonitrile essentially as described above in example 18 except that the reaction is run overnight and the compound is purified by column chromatography using a solvent gradient of 5% ethyl acetate in dichloromethane to 10% methanol in ethyl acetate. Purity by LC/MS (APCI)=99%, [M+H]+=387.

reactant | 3-[3-(2-bromo-ethoxy)-phenyl]-thieno[2,3-d]isoxazole | BrCCOC=1C=C(C=CC1)C1=NOC2=C1SC=C2 | C13H10BrNO2S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | 2,6-difluorobenzylamine | FC1=C(CN)C(=CC=C1)F | C7H7F2N
solvent | acetonitrile | C(C)#N | C2H3N
product | (2,6-difluoro-benzyl)-[2-(3-thieno[2,3-d]isoxazol-3-yl-phenoxy)-ethyl]-amine | FC1=C(CNCCOC2=CC(=CC=C2)C2=NOC3=C2SC=C3)C(=CC=C1)F | C20H16F2N2O2S
